US04970219
N-(Indan-1-yl)-4-nitro-3-pyridinamine-1-oxide
A solution of 3-fluoro-4-nitropyridine-1-oxide (5.6 g) and indan-1-amine (6 g) in 100 ml ethanol was stirred at reflux for one hour and thereafter cooled and concentrated to 12 g of solid. This solid was purified by flash chromatography (silica, 10% ethyl acetate in dichloromethane) to give 9.2 g solid, m.p. 137°-138°. An analytical sample was obtained by recrystallizing 2.7 g from ethanol to give 2.5 g crystals, m.p. 141°-142°.

reactant | 3-fluoro-4-nitropyridine-1-oxide | 5.6 g | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | indan-1-amine | 6 g | C1(CCC2=CC=CC=C12)N | C9H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(Indan-1-yl)-4-nitro-3-pyridinamine-1-oxide | 9.2 g | C1(CCC2=CC=CC=C12)NC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C14H13N3O3
